US05688805
Dissolved 1-acetyl-4-(8-chloro-5, 6-dihydro-11-(2-propenyl)-11H-benzo[5,6]-cyclohepta[1,2-b]pyridin-11-yl)-1,2,5,6-tetrahydropyridine(1.0 g, 2.5 mmol) in 50 mL of dry THF, and cooled to 0° C. under a nitrogen atmosphere. Added 9-borabicyclo-[3.3.1]nonane (12.5 mL of 0.5M, 6.25 mmol) via syringe. Warmed slowly room temperature, and stirred for 4 hours. Added 25 weight % NaOH (7.8 mL, 20 mmol) and 30 weight % hydrogen peroxide (4.9 mL, 17.5 mmol), and stirred at room temperature for 16 hours. Added dichloromethane, and washed with saturated NaHSO3, water, and then saturated NaCI. Dried organic solution with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 10% MeOH-EtOAc. Combined appropriate fractions, and evaporated to give 0.16 g (16% yield) of 1-acetyl-4-(8-chloro-5,6-dihydro-11-(3-hydroxypropyl)-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-yl)-1,2,5,6-tetrahydropyridine as an oil.

reactant | 1-acetyl-4-(8-chloro-5, 6-dihydro-11-(2-propenyl)-11H-benzo[5,6]-cyclohepta[1,2-b]pyridin-11-yl)-1,2,5,6-tetrahydropyridine | 2.5 mmol, 1.0 g | C(C)(=O)N1CC=C(CC1)C1(C2=C(CCC=3C1=NC=CC3)C=C(C=C2)Cl)CC=C | C24H25ClN2O
reactant | 9-borabicyclo-[3.3.1]nonane | 6.25 mmol, 0.5M, 12.5 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | NaOH | 20 mmol, 7.8 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 17.5 mmol, 4.9 mL | OO | H2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-acetyl-4-(8-chloro-5,6-dihydro-11-(3-hydroxypropyl)-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-yl)-1,2,5,6-tetrahydropyridine | 0.16 g, 16% yield | C(C)(=O)N1CC=C(CC1)C1(C2=C(CCC=3C1=NC=CC3)C=C(C=C2)Cl)CCCO | C24H27ClN2O2
